US07432293B2
3-{3-[4-(2-Methoxy-ethoxy)-phenyl]-isoxazol-5-yl}-benzoic acid 2-oxo-propyl ester:
In a 25 ml round flask, 150 mg (0.44 mmol) of 3-{3-[4-(2-methoxy-ethoxy)-phenyl]-isoxazol-5-yl}-benzoic acid are dissolved. Then, 122 mg (0.88 mmol, 4 eq.) of K2CO3 and 49 mg (0.53 mmol, 1.2 eq.) of 1-chloro-propan-2-one are added and the suspension heated to 55° C. under nitrogen. After 48 h, the reaction is cooled to room temperature and the solvent evaporated. Chromatographic purification (10 g SiO2; eluent: hexane/ethyl acetate 1:0 to 4:6) yields the title compound as a white solid. Mass spectrum: m/z (M+H)+: 396.0

reactant | 3-{3-[4-(2-methoxy-ethoxy)-phenyl]-isoxazol-5-yl}-benzoic acid | 0.44 mmol, 150 mg | COCCOC1=CC=C(C=C1)C1=NOC(=C1)C=1C=C(C(=O)O)C=CC1 | C19H17NO5
reactant | K2CO3 | 0.88 mmol, 122 mg, 4 eq. | C(=O)([O-])[O-].[K+].[K+]
reactant | 1-chloro-propan-2-one | 0.53 mmol, 49 mg, 1.2 eq. | ClCC(C)=O | C3H5ClO
product | 3-{3-[4-(2-Methoxy-ethoxy)-phenyl]-isoxazol-5-yl}-benzoic acid 2-oxo-propyl ester | O=C(COC(C1=CC(=CC=C1)C1=CC(=NO1)C1=CC=C(C=C1)OCCOC)=O)C | C22H21NO6
